US07759473B2
Synthesis of trifluoroacetylaminocaproic Acid, Formula 29
ω-aminocaproic acid (2.59 g, 19.7 mol) was dissolved in 100 mL methanol, and triethylamine (4.2 mL, 29.9 mmol) and ethyl trifluoroacetate (3.5 mL, 29.5 mmol) were added and agitated for a day and night at room temperature. The reaction solution was poured into 1% by weight hydrochloric acid (100 mL), and extracted once with methylene chloride. The methylene chloride layer was washed once with water and once with a saturated aqueous sodium chloride solution, and then dried and concentrated with anhydrous sodium sulfate to obtain 2.78 g of a crude product.

reactant | ω-aminocaproic acid | 19.7 mol, 2.59 g | C(CCC(=O)O)CCN | C6H13NO2
reactant | triethylamine | 29.9 mmol, 4.2 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 29.5 mmol, 3.5 mL | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | hydrochloric acid | 100 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
product | trifluoroacetylaminocaproic Acid | 2.78 g | FC(C(=O)NC(C(=O)O)CCCC)(F)F | C8H12F3NO3
